US09303040B2
To a solution of (R)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride (30 mg, 0.097 mmol) and (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid (31 mg, 0.097 mmol) in CH2Cl2 (5 mL) and triethylamine (1 mL) was added HBTU (37 mg, 0.097 mmol). The mixture was stirred at room temperature for 1 hour. The solvent was removed and the residue was dissolved in ethyl acetate (100 mL) and washed with water (5×50 mL). The organic phase was dried and concentrated. The residue was subject to silica gel chromatography, eluting with CH2Cl2/MeOH (50:1) to give tert-butyl (R)-3-(4-chloro-3-fluorophenyl)-1-(4-((R)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate (44 mg, 85%). MS (APCI+) [M+H]+ 536.

reactant | (R)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride | 0.097 mmol, 30 mg | Cl.Cl.C[C@H]1SCC=2N=CN=C(C21)N2CCNCC2
reactant | (R)-2-(tert-butoxycarbonylamino)-3-(4-chloro-3-fluorophenyl)propanoic acid | 0.097 mmol, 31 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)Cl)F | C14H17ClFNO4
reactant | HBTU | 0.097 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl (R)-3-(4-chloro-3-fluorophenyl)-1-(4-((R)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | 44 mg, 85% | ClC1=C(C=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@@H]2C)NC(OC(C)(C)C)=O)F | C25H31ClFN5O3S
